US03993679
a. 1,3-Diamino-4,6-dichlorobenzene
To a solution of 399 gm. (1.77 mole) of stannous chloride dihydrate in 975 ml. of concentrated hydrochloric acid is added 60 gm. (0.258 mole) of 1,5-dichloro-2,4-dinitrobenzene. The temperature rises to 72° and a solution occurs. The mixture is allowed to cool to room temperature and then cooled in an ice-bath (to 5°). A cold 50% solution of sodium hydroxide is added, with cooling, until the mixture is strongly basic. The mixture is filtered and the precipitate on the funnel washed four times with 500 ml. portions of ethyl acetate. The ethyl acetate extracts are combined, dried over anhydrous M9SO4 and the solvent removed. The residue is recrystallized from 50% ethanol-water. There is obtained 31.9 gm. (70%) of colorless needles melting at 142°-3°.

reactant | hydrochloric acid | Cl | ClH
reactant | 1,5-dichloro-2,4-dinitrobenzene | 0.258 mole | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 1,3-Diamino-4,6-dichlorobenzene | NC1=CC(=C(C=C1Cl)Cl)N | C6H6Cl2N2
